US09382188B2
D) 5-((3-(((tert-butyldiphenylsilyl)oxy)methyl)phenyl) (cyclopropyl)methyl)-2,2-dimethyl-1,3-dioxane-4,6-dione
Under an argon atmosphere, to a solution of 5-(3-(((tert-butyldiphenylsilyl)oxy)methyl)benzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (6.39 g) in THF (85 mL) was added dropwise a 0.70 M solution of cyclopropylmagnesium bromide in THF (54.7 mL) at 0° C. over 15 min, and the mixture was stirred at 0° C. for 5.5 hr. 0.50N Hydrochloric acid (300 mL) was added dropwise at 0° C., and water was further added. The reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (6.05 g) as a colorless oil.

reactant | 5-(3-(((tert-butyldiphenylsilyl)oxy)methyl)benzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 6.39 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=C2C(OC(OC2=O)(C)C)=O)C=CC1 | C30H32O5Si
reactant | cyclopropylmagnesium bromide | C1(CC1)[Mg]Br
reactant | Hydrochloric acid | 0.50N, 300 mL | Cl | ClH
reactant | water | O | H2O
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | THF | 54.7 mL | C1CCOC1 | C4H8O
product | 5-((3-(((tert-butyldiphenylsilyl)oxy)methyl)phenyl) (cyclopropyl)methyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 6.05 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=CC1)C(C1C(OC(OC1=O)(C)C)=O)C1CC1 | C33H38O5Si
